US09079866B2
1-[4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-yl]pyrrolidin-2-one
Title compound was prepared using analogous conditions to those described in Example 1 utilizing 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine and 1-(2-bromophenyl)pyrrolidin-2-one. MS (ESI): mass calcd. for C20H17FN4O, 348.14; m/z found, 349.0 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ 8.39 (s, 1H), 8.03 (s, 1H), 7.91 (m, 1H), 7.54-7.14 (m, 6H), 6.72 (s, 2H), 3.44 (t, J=6.7, 2H), 2.26 (t, J=7.9, 2H), 1.97-1.87 (m, 2H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | 1-(2-bromophenyl)pyrrolidin-2-one | BrC1=C(C=CC=C1)N1C(CCC1)=O | C10H10BrNO
product | 1-[4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-yl]pyrrolidin-2-one | NC=1N=CC(=NC1)C1=C(C=C(C=C1)C1=C(C=CC=C1)N1C(CCC1)=O)F | C20H17FN4O
